US07977331B1
To a solution of methyl 12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate (70 mg, 0.19 mmol) in tetrahydrofuran (2 ml) and methanol (1 ml) was added 4N aqueous sodium hydroxide solution (1 ml) and the mixture was stirred at room temperature for 24 hr. 1N Hydrochloric acid was added to the reaction mixture, and the precipitated solid was collected by filtration, washed with water and dried in vacuo to give 12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylic acid (59 mg, yield 85.2%).

reactant | methyl 12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate | 0.19 mmol, 70 mg | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC=C4)C=C(C=C2)C(=O)OC | C24H25NO3
reactant | sodium hydroxide | 4N, 1 ml | [OH-].[Na+]
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | methanol | 1 ml | CO | CH4O
product | 12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylic acid | 59 mg, yield 85.2% | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC=C4)C=C(C=C2)C(=O)O | C23H23NO3
